US06716851B2
4-(4-Chloro-2,5-dimethoxyanilino)-2-(2-pyridinyl)-6-(trifluoromethyl)pyrimidine hydrochloride
The title compound was prepared from a mixture of 4-chloro-2-(2-pyridinyl)-6-(trifluoromethyl)pyrimidine (50 mg, 0.193 mmol) and 4-chloro-2,5-dimethoxyaniline (54 mg, 0.290 mmol) similar to Example 117 and isolated as a brown solid (58 mg, 73%). 1H NMR (CDCl3): 8.84-8.82 (m, 1H), 8.61-8.57 (m, 1H), 7.93-7.87 (m, 1H), 8.50 (bs, 1H), 7.66 (s, 1H), 7.49-7.45 (m, 1H), 7.02 (s, 1H), 7.01 (s, 1H), 4.07 (s, 3H), 3.92 (s, 3H).

reactant | 4-chloro-2-(2-pyridinyl)-6-(trifluoromethyl)pyrimidine | 0.193 mmol, 50 mg | ClC1=NC(=NC(=C1)C(F)(F)F)C1=NC=CC=C1 | C10H5ClF3N3
reactant | 4-chloro-2,5-dimethoxyaniline | 0.290 mmol, 54 mg | ClC1=CC(=C(N)C=C1OC)OC | C8H10ClNO2
product | 4-(4-Chloro-2,5-dimethoxyanilino)-2-(2-pyridinyl)-6-(trifluoromethyl)pyrimidine hydrochloride | Cl.ClC1=CC(=C(NC2=NC(=NC(=C2)C(F)(F)F)C2=NC=CC=C2)C=C1OC)OC | InChI=1S/C18H14ClF3N4O2.ClH/c1-27-13-8-12(14(28-2)7-10(13)19)24-16-9-15(18(20,21)22)25-17(26-16)11-5-3-4-6-23-11;/h3-9H,1-2H3,(H,24,25,26);1H
